US09029560B2
Preparation of 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-one (CB57)
3-(4-Bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole (C52) (11 g, 29 mmol), copper(I) iodide (0.55 g, 2.9 mmol), potassium phosphate (18 g, 86 mmol), and pentane-2,4-dione (8.9 mL, 86 mmol) were dissolved in dimethylsulfoxide (120 mL) in a 500 mL round bottomed flask. The reaction was heated at 110° C. for 19 hours. The solution was cooled to room temperature and then quenched with hydrogen chloride (2 N). The excess base was removed by gravity filtration and the filtrate was extracted with ethyl acetate. The organics were washed with water, extracted, dried, and concentrated. Purification by flash column chromatography using 0-30% ethyl acetate/hexanes afforded the title compound as a pure orange solid (3.7 g, 35%): 1H NMR (400 MHz, CDCl3) δ 8.56 (s, 1H), 8.17 (d, J=8.2 Hz, 2H), 7.80 (d, J=9.0 Hz, 2H), 7.39 (dt, J=8.1, 1.0 Hz, 2H), 7.33 (dd, J=8.1, 0.6 Hz, 2H), 3.76 (s, 2H), 2.19 (s, 3H); ESIMS m/z 361 ([M]+).

reactant | 3-(4-Bromophenyl)-1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazole | 29 mmol, 11 g | BrC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C15H9BrF3N3O
reactant | potassium phosphate | 86 mmol, 18 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | pentane-2,4-dione | 86 mmol, 8.9 mL | CC(CC(C)=O)=O | C5H8O2
solvent | dimethylsulfoxide | 120 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 2.9 mmol, 0.55 g | [Cu]I
product | 1-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propan-2-one | 3.7 g, 35% | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CC(C)=O)(F)F | C18H14F3N3O2
